US09371319B2
Preparation 94: 2-Chloro-4-(oxazol-5-yl)aniline
Palladium acetate (5.4 mg, 0.024 mmol) was added to a solution of 4-bromo-2-chloroaniline (0.1 g, 0.484 mmol), oxazole (0.064 mL, 0.969 mmol), di(1-adamantyl)-n-butylphosphine (0.017 g, 0.048 mmol), pivalic acid (0.020 g, 0.194 mmol) and potassium carbonate (0.201 g, 1.453 mmol) in DMA (2.4 mL). The reaction mixture was heated at 110° C. overnight before being diluted with EtOAc and quenched with water. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layers were dried (Na2SO4), filtered and concentrated under reduced pressure. The crude mixture was purified via Biotage silica gel column chromatography eluting with (Cyclohexane/EtOAc 80/20 to 60/40) to give the title product as a white solid (35 mg, 37%). 1H NMR (500 MHz, CDCl3): δ 4.25 (br s, 2H), 6.82 (d, J=8.3 Hz, 1H), 7.20 (s, 1H), 7.38 (dd, J=8.3, 2.0 Hz, 1H), 7.58 (d, J=2.0 Hz, 1H), 7.87 (s, 1H).

reactant | 4-bromo-2-chloroaniline | 0.484 mmol, 0.1 g | BrC1=CC(=C(N)C=C1)Cl | C6H5BrClN
reactant | oxazole | 0.969 mmol, 0.064 mL | O1C=NC=C1 | C3H3NO
reactant | di(1-adamantyl)-n-butylphosphine | 0.048 mmol, 0.017 g | C12(CC3CC(CC(C1)C3)C2)P(CCCC)C23CC1CC(CC(C2)C1)C3 | C24H39P
reactant | pivalic acid | 0.194 mmol, 0.020 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | potassium carbonate | 1.453 mmol, 0.201 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMA | 2.4 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Palladium acetate | 0.024 mmol, 5.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Chloro-4-(oxazol-5-yl)aniline | 35 mg, 37% | ClC1=C(N)C=CC(=C1)C1=CN=CO1 | C9H7ClN2O
